US09079889B2
To a solution of methyl 5-fluoro-6-(1,4-dioxaspiro[4.5]decan-8-yl)picolinat (1.0 equiv.) in acetone and water (1:1, 0.04 M) was added oxalic acid dehydrate (2.0 equiv.) and the reaction mixture was stirred for 3 days. The solution was then neutralized by the addition of solid NaHCO3, the mixture was added to ethyl acetate and brine, the organic phase was dried over magnesium sulfate, filtered, and concentrated. Methyl 5-fluoro-6-(4-oxocyclohexyl)picolinate was obtained in 98% yield. LC/MS=252.1 (M+H), Rt=0.68 min.

reactant | methyl 5-fluoro-6-(1,4-dioxaspiro[4.5]decan-8-yl)picolinat | 1.0 equiv. | FC=1C=CC(=NC1C1CCC2(OCCO2)CC1)C(=O)OC | C15H18FNO4
reactant | oxalic acid | 2.0 equiv. | C(C(=O)O)(=O)O | C2H2O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 0.04 M | O | H2O
solvent | brine | [Cl-].[Na+].O
product | Methyl 5-fluoro-6-(4-oxocyclohexyl)picolinate | 98% yield | FC=1C=CC(=NC1C1CCC(CC1)=O)C(=O)OC | C13H14FNO3
